US05167949
a) (2,2,2-Trifluoroethoxy)acetonitrile
At about 50° C., 26.4 g (0.40 mole) of 85% potassium hydroxide are solubilized in 100 g (1.0 mole) of 2,2,2-trifluoroethanol. After cooling at 25° C. 37.8 g (0.50 mole) of chloroacetonitrile are added dropwise to this solution. The temperature rises slowly to 40° C. and a precipitate appears. The reaction mixture is then brought gradually to 60° C.; after the addition of 300 ml of heptane, it is then brought to reflux. The whole of the vapour is condensed by means of a Dean and Stark apparatus. The lower phase of the condensate is separated after settling has taken place and distilled at atmospheric pressure. Yld: 19.6 g (28%), b.p. 125°-140° C.

reactant | potassium hydroxide | 0.40 mole, 26.4 g | [OH-].[K+]
reactant | 2,2,2-trifluoroethanol | 1.0 mole, 100 g | FC(CO)(F)F | C2H3F3O
reactant | chloroacetonitrile | 0.50 mole, 37.8 g | ClCC#N | C2H2ClN
solvent | heptane | 300 ml | CCCCCCC | C7H16
product | (2,2,2-Trifluoroethoxy)acetonitrile | FC(COCC#N)(F)F | C4H4F3NO
